US05439925
1-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-(3-hydroxy-4-methylphenoxy)ethanone
1 g (2.7 mmol) of 2-hydroxy-4-(5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthoylmethyloxy)benzaldehyde, 100 mg of palladium on charcoal (5%) and 50 ml of dioxane are introduced into a reactor. The mixture is hydrogenated at room temperature and under a pressure of 3 bars, the catalyst is filtered off and the filtrate is evaporated. The residue obtained is purified by chromatography on a silica column and eluted with a mixture of hexane and ethyl ether (70:30). After evaporation of the solvents, 600 mg of the expected product, melting point 144°-5° C., are collected.

reactant | 2-hydroxy-4-(5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthoylmethyloxy)benzaldehyde | 2.7 mmol, 1 g | OC1=C(C=O)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C23H26O4
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2-(3-hydroxy-4-methylphenoxy)ethanone | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(COC1=CC(=C(C=C1)C)O)=O)C | C23H28O3
